US07465825B2
Step 5. Methyl-2-(3′-dibenzofuran-4-yl-biphen-3-ylmethylsulfanyl)-propionate
Ethyl-2-mercaptopropionate (31 mg, 0.29 mmol) was added to a stirred suspension of 4-(3′-bromomethyl-biphen-3-yl)-dibenzofuran (100 mg, 0.24 mmol) and cesium carbonate (198 mg, 0.6 mmol) in 5 ml DMF. diluted with diethyl ether (30 mL) and washed with water (2×) and brine (3×). The ethereal solution was dried over anhydrous MgSO4, filtered and concentrated in vacuo. Purification of the product by flash column chromatography, using 30% ethyl acetate in hexane as eluent, afforded the title compound; methyl-2-(3′-dibenzofuran-4-yl-biphen-3-ylmethylsulfanyl)-propionate, as a colorless oil (105 mg, 94).

reactant | Ethyl-2-mercaptopropionate | 0.29 mmol, 31 mg | C(C)OC(C(C)S)=O | C5H10O2S
reactant | 4-(3′-bromomethyl-biphen-3-yl)-dibenzofuran | 0.24 mmol, 100 mg | BrCC=1C=C(C=2C=CC=C(C2)C2=CC=CC3=C2OC2=C3C=CC=C2)C=CC1 | C25H17BrO
reactant | cesium carbonate | 0.6 mmol, 198 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
product | Methyl-2-(3′-dibenzofuran-4-yl-biphen-3-ylmethylsulfanyl)-propionate | COC(C(C)SCC1=CC=CC(=C1)C1=CC(=CC=C1)C1=CC=CC2=C1OC1=C2C=CC=C1)=O | C29H24O3S
